US05753709
Preparation of (trans)-N-[[2-[3-(Methylethoxy)phenyl]cyclopropyl]methyl] butanamide
To a rapidly stirred solution of (trans)-N-[[2-(3-hydroxyphenyl)cyclopropyl]methyl] butanamide (390 mg, 1.7 mmol), triphenylphosphine (498 mg, 1.9 mmol) and isopropanol (150 mg, 2.5 mmol) in THF (10 mL) at 0° C. was added diethyl azodicarboxylate (331 mg, 1.9 mmol) in one portion. After stirring for 2 h, the suspension was diluted with Et2O (100 mL), washed with H2O, 2N NaOH, and brine, dried (K2CO3) and concentrated to a give a crude wax. The resulting material was purified by chromatography (silica gel, 35% EtOAc/hexane) to afford 144 mg (31%) of the title compound: 1H NMR (300 MHz, CDCl3) δ0.85-0.94 (m, 5H), 1.22-1.24 (m, 1H), 1.29 (d, J=6.7 Hz, 6H), 1.58-1.68 (m, 2H), 1.70-1.77 (m, 1H), 2.14 (t, J=6.0 Hz, 2H), 3.14-3.36 (m, 2H), 4.44-4.54 (m, 1H), 5.81 (br s, 1H), 6.53-6.67 (m, 3H), 7.13 (t, J=7.2 Hz, 1H); IR (NaCl Film) 3294, 2974, 1644, 1610, 1550, 1492 cm-1 ; MS m/e 275; Analysis calc'd for C17H25 NO2 : C, 74.14; H, 9.15; N, 5.09; found: C, 73.77; H, 8.99; N, 4.82.

reactant | (trans)-N-[[2-(3-hydroxyphenyl)cyclopropyl]methyl] butanamide | 1.7 mmol, 390 mg | OC=1C=C(C=CC1)[C@H]1[C@@H](C1)CNC(CCC)=O | C14H19NO2
reactant | triphenylphosphine | 1.9 mmol, 498 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isopropanol | 2.5 mmol, 150 mg | C(C)(C)O | C3H8O
reactant | diethyl azodicarboxylate | 1.9 mmol, 331 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | (trans)-N-[[2-[3-(Methylethoxy)phenyl]cyclopropyl]methyl] butanamide | 144 mg, 31% | CC(C)OC=1C=C(C=CC1)[C@H]1[C@@H](C1)CNC(CCC)=O | C17H25NO2
